US09107916B2
2-(5-hydroxy-3-methyl-1H-pyrazol-1-yl)isonicotinic acid
A mixture of 2-hydrazinylpyridine-4-carboxylic acid (306 mg, 2 mmol, PREPARATION 1) and ethyl 3-oxobutanoate (390 mg, 3 mmol) in AcOH (5 mL) was stirred at 100° C. overnight. The reaction mixture was cooled, concentrated, and purified by prep-HPLC to afford the title compound (72 mg, 16%) as yellow solid. 1H NMR (400 MHz, CD3OD): δ 2.72 (3H, s), 4.86 (1H, s), 7.71 (1H, d, J=4.8 Hz), 8.55 (1H, d J=4.8 Hz), 8.81 (1H, s). [M+H] Calc'd for C10H9N3O3, 220. Found, 220.

reactant | 2-hydrazinylpyridine-4-carboxylic acid | 2 mmol, 306 mg | N(N)C1=NC=CC(=C1)C(=O)O | C6H7N3O2
reactant | ethyl 3-oxobutanoate | 3 mmol, 390 mg | O=C(CC(=O)OCC)C | C6H10O3
solvent | AcOH | 5 mL | CC(=O)O | C2H4O2
product | 2-(5-hydroxy-3-methyl-1H-pyrazol-1-yl)isonicotinic acid | 72 mg, 16% | OC1=CC(=NN1C=1C=C(C(=O)O)C=CN1)C | C10H9N3O3
